US05834499
A solution of 500 mg of 2-[(piperidinocarbonyl)methyl]-8H-indeno[1,2-d]thiazole in 10 ml of tetrahydrofuran was added to a suspension of 160 mg of lithium aluminum hydride in 10 ml of tetrahydrofuran at 0° C., followed by heating under reflux for 1.5 hours. The reaction mixture was cooled to 0° C. again, and sodium sulfate decahydrate was added. The resulting mixture was stirred at room temperature for 30 minutes. After the insoluble matter was removed by filtration, the solvent was evaporated. The resulting oily substance was purified by silica gel column chromatography (eluent: chloroform:methanol=10:1), whereby 120 mg of 2-(2-piperidinoethyl)-8H-indeno[1,2-d]thiazole was obtained. Fumaric acid was added to the product in ethanol to cause crystallization, and the crystals were recrystallized to give a fumarate.

reactant | 2-[(piperidinocarbonyl)methyl]-8H-indeno[1,2-d]thiazole | 500 mg | N1(CCCCC1)C(=O)CC=1SC2=C(N1)C=1C=CC=CC1C2 | C17H18N2OS
reactant | lithium aluminum hydride | 160 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(2-piperidinoethyl)-8H-indeno[1,2-d]thiazole | 120 mg | N1(CCCCC1)CCC=1SC2=C(N1)C=1C=CC=CC1C2 | C17H20N2S
